US07195649B2
14.9 g (74 mmol) of 5-amino-1-(4-isopropylphenyl)pyrazole [sic] from Step 2.1 was dissolved in 130 mL of tetrahydrofuran. 42.2 g of 32% hydrochloric acid was added, and the reaction mixture was cooled to 0 to 5° C. Then, 9.5 g (81 mmol) of isopentyl nitrite was added dropwise with agitation so that the temperature did not exceed 5° C. Gradually, a yellowish precipitate formed which after an additional 1.5-hour agitation period in an ice bath was removed by suction filtration and washed with a small amount of tetrahydrofuran. Drying gave 12.3 g (46.1 mmol, 62% of the theoretical) of 5-amino-1-(4-isopropylphenyl)4-nitroso-1H-pyrazole hydrochloride.

reactant | 5-amino-1-(4-isopropylphenyl)pyrazole | 74 mmol, 14.9 g | NC1=CC=NN1C1=CC=C(C=C1)C(C)C | C12H15N3
reactant | hydrochloric acid | 42.2 g | Cl | ClH
reactant | isopentyl nitrite | 81 mmol, 9.5 g | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | 5-amino-1-(4-isopropylphenyl)4-nitroso-1H-pyrazole hydrochloride | Cl.NC1=C(C=NN1C1=CC=C(C=C1)C(C)C)N=O | InChI=1S/C12H14N4O.ClH/c1-8(2)9-3-5-10(6-4-9)16-12(13)11(15-17)7-14-16;/h3-8H,13H2,1-2H3;1H
